US09163011B2
b) (R)-4-(6-Amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine
To a solution of (R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (8.73 g, 23.17 mmol) in ethylene glycol (139 ml) and aq. NH3 (w=25%, 108 ml) in an autoclave was added copper(I) oxide (497 mg, 3.47 mmol) and the mixture was warmed to 60° C. over night. After cooling to rt the mixture was extracted with EtOAc, the organic layer was washed with aq. NH3 (w=12%, 2×), the combined organic layers were washed with sat. aq. NaCl, dried with Na2SO4 and evaporated. The residue was dissolved in TBME and extracted with 1N HCl (2×). The combined aq. layers were basified by addition of solid Na2CO3 some NaCl was added and the aq. solution extracted with DCM (4×). The combined DCM extracts were dried with K2CO3 and evaporated to provide the title compound as greyish resin. The crude material was used for the next step without further purification.

reactant | (R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | 23.17 mmol, 8.73 g | BrC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)N)C)F | C10H9BrF3N3O
reactant | NH3 | 108 ml | N | H3N
solvent | ethylene glycol | 139 ml | C(CO)O | C2H6O2
catalyst | copper(I) oxide | 3.47 mmol, 497 mg | [Cu-]=O
product | (R)-4-(6-Amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)N)C)F | C10H11F3N4O
